US04587342
2,4-Diamino-5-(5-amino-6-methyl-8-quinolylmethyl)pyrimidine dihydrochloride
A mixture of 5-amino-6-methylquinoline (2.16 g, 13.7 mmol), prepared by reduction of 6-methyl-5-nitroquinoline (R. Long and K. Schofield, J. Chem. Soc. 1953, 2350), 2,4-diamino-5-hydroxymethylpyrimidine (1.91 g, 13.6 mmol), concentrated hydrochloric acid (1.9 mL), and glacial acetic acid was refluxed for 2 hr. The cooled reaction mixture was filtered and the precipitate washed with ether and dried (4.17 g). Recrystallization from aqueous ethanol with hydrochloric acid gave title compound as red-orange solid (2.08 g, 40%); mp >290° dec. Anal. Calcd for C15H16N6.2HCl.2H2O: C, 46.28; H, 5.70; N, 21.59; Cl, 18.21. Found: C, 46.13; H, 5.61; N, 21.66; Cl, 18.25.

reactant | 5-amino-6-methylquinoline | 13.7 mmol, 2.16 g | NC1=C2C=CC=NC2=CC=C1C | C10H10N2
reactant | 6-methyl-5-nitroquinoline | CC=1C(=C2C=CC=NC2=CC1)[N+](=O)[O-] | C10H8N2O2
reactant | 2,4-diamino-5-hydroxymethylpyrimidine | 13.6 mmol, 1.91 g | NC1=NC=C(C(=N1)N)CO | C5H8N4O
reactant | hydrochloric acid | 1.9 mL | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-Diamino-5-(5-amino-6-methyl-8-quinolylmethyl)pyrimidine dihydrochloride | 2.08 g, 40% | Cl.Cl.NC1=NC=C(C(=N1)N)CC=1C=C(C(=C2C=CC=NC12)N)C | InChI=1S/C15H16N6.2ClH/c1-8-5-9(6-10-7-20-15(18)21-14(10)17)13-11(12(8)16)3-2-4-19-13;;/h2-5,7H,6,16H2,1H3,(H4,17,18,20,21);2*1H
